US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid (2,2-dimethyl-propyl)ester
The title compound was prepared from 5-{(2R)-2-[(2R)-2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2,2-dimethyl-propyl) ester according to the procedure of Example 22 as a white solid; 1H NMR (DMSO) δ 0.868 (s, 9H), 1.02-1.06 (m, 3H),3.00-3.02 (m, 1H), 3.24-3.30 (m, 1H), 3.35 (s, 5H), 3.80 (t, 2H), 4.55 (s, 1H), 5.03 (m, 1H), 6.52 (m, 1H), 6.61 (m, 1H), 6.79 (m, 1H), 7.34 (m, 3H), 7.48 (s, 1H); IR (KBr) 3398 cm-1 (--OH), 1748 cm-1 (C=O), 1654 cm-1 (C=O); MS (ES) m/z 492.3 (MH+); [α]D25 -93° (c, 1.0, CHCl3). Anal. Calcd. for C25H30ClNO7 : C, 61.04; H, 6.15; N, 2.85; Cl, 7.21. Found: C, 56.96; H,5.65; N, 2.63; Cl, 7.05.

reactant | 5-{(2R)-2-[(2R)-2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2,2-dimethyl-propyl) ester | CC(COC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCC(C)(C)C)(C)C | C30H40ClNO7
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid (2,2-dimethyl-propyl)ester | CC(COC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)O)(C)C | C25H30ClNO7
